US06384220B2
A solution of 2-[3-cyclopentyl-2-(4-phenoxy-phenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester (100 mg, 0.22 mmol) in diethyl ether (10 mL) was cooled to 0° C. and then treated with lithium aluminum hydride (13 mg, 0.32 mmol). The reaction mixture was slowly warmed to 25° C. where it was stirred for 16 h. After this time, the reaction mixture was slowly diluted with water (5 mL) and then extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 70/30 hexanes/ethyl acetate) afforded 3-cyclopentyl-N-(4-hydroxymethyl-thiazol-2-yl)-2-(4-phenoxy-phenyl)-propionamide (50 mg, 55%) as a white solid: mp 83.7-87° C.; EI-HRMS m/e calcd for C24H26N2O3S (M+) 422.1664, found 422.1674.

reactant | 2-[3-cyclopentyl-2-(4-phenoxy-phenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester | 0.22 mmol, 100 mg | C(C)OC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C26H28N2O4S
reactant | lithium aluminum hydride | 0.32 mmol, 13 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | water | 5 mL | O | H2O
product | 3-cyclopentyl-N-(4-hydroxymethyl-thiazol-2-yl)-2-(4-phenoxy-phenyl)-propionamide | 50 mg, 55% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)CO)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H26N2O3S
